US05962458
A mixture of 4-fluoro-2-methyl-5-nitrophenol (2.1 g, 13 mmol), iron powder (1 g, 18 mmol) and iron(II)sulphate (1.5 g, 10 mmol) in water (40 ml) was refluxed for 4 hours. The reaction mixture was allowed to cool, neutralised with 2M aqueous sodium hydroxide and extracted with ethyl acetate (100 ml). The ethyl acetate extract was dried (MgSO4) and the solvent removed by evaporation to give 2-fluoro-5-hydroxy-4-methylaniline (0.8 g, 47%) as a solid.

reactant | 4-fluoro-2-methyl-5-nitrophenol | 13 mmol, 2.1 g | FC1=CC(=C(C=C1[N+](=O)[O-])O)C | C7H6FNO3
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
catalyst | iron | 18 mmol, 1 g | [Fe] | Fe
catalyst | iron(II)sulphate | 10 mmol, 1.5 g | S(=O)(=O)([O-])[O-].[Fe+2]
product | 2-fluoro-5-hydroxy-4-methylaniline | 0.8 g, 47% | FC1=C(N)C=C(C(=C1)C)O | C7H8FNO
